US07348324B2
N-[3-(4-Benzyl-1-piperidinyl)propyl]-5-methyl-3-isoxazoleamine
To a solution of 4-benzylpiperidine (3.51 g, 20.0 mmol) and DBU (0.030 ml, 0.20 mmol) in THF (40 ml) was dropwise added a solution of acrolein (90%, 1.485 ml, 20.0 mmol) in THF (10 ml) at −20° C. with stirring over a period of 10 minutes. The mixture was stirred for 1 hour while the temperature of the mixture is elevated from −20° C. to −10° C. To the mixture were added 3-amino-5-methyl isoxazole (1.96 g, 20.0 mmol) and sodium triacetoxyborohydride (8.48 g, 40.0 mmol), successively, at −10° C. The mixture was stirred for 15 hours while the temperature of the mixture is elevated to −10° C. To the mixture was added aqueous solution of 1N-sodium hydroxide (120 ml) under ice cooling, and the mixture was stirred for 30 minutes and extracted with diethyl ether (60 ml×3). The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was subjected to column chromatography (silica gel 100 g, ethyl acetate/methanol=1/0 to 75/25), and the desired fraction was concentrated under reduced pressure to give the titled compound (2.30 g, 7.34 mmol) as white crystals. Yield 37%.

reactant | 4-benzylpiperidine | 20.0 mmol, 3.51 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | acrolein | 20.0 mmol, 1.485 ml | C(=O)C=C | C3H4O
reactant | 3-amino-5-methyl isoxazole | 20.0 mmol, 1.96 g | NC1=NOC(=C1)C | C4H6N2O
reactant | sodium triacetoxyborohydride | 40.0 mmol, 8.48 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DBU | 0.20 mmol, 0.030 ml | C1CCC2=NCCCN2CC1 | C9H16N2
product | N-[3-(4-Benzyl-1-piperidinyl)propyl]-5-methyl-3-isoxazoleamine | 7.34 mmol, 2.30 g, Yield 37% | C(C1=CC=CC=C1)C1CCN(CC1)CCCNC1=NOC(=C1)C | C19H27N3O
